US05218075
To a 2-liter Morton flask equipped with a mechanical stirrer and a half-moon paddle is charged 30.50 g (0.125 mole) of 2,2-bis(4-hydroxyphenyl)acetic acid and 1 L of tetrahydrofuran (THF) under a nitrogen atmosphere. LiAlH4 (18.9 g, 0.5 mole) is added with stirring to the reaction mixture over a period of six days. The reaction temperature is about 25° C. at the outset and is increased to 65° C. after one day and maintained at that temperature throughout the remaining five days of the addition of the LiAlH4. After a total of 12.5 days, the reaction mixture is cooled to 0° C. and 100 mL of water is added dropwise to the reaction mixture. The pH of reaction mixture is lowered to a pH of 1 by the addition of 10 percent HCl and the resulting phases are separated. The organic phase is evaporated to form a solid and the solid is dissolved in 500 mL of methyl isobutyl ketone. After washing the resulting solution with 100 mL of an aqueous solution of 5 percent NaHCO3, the solution is concentrated in vacuo to yield 30.7 g of 2,2-bis(4-hydroxyphenyl)ethanol as an orange gum. This gum is recrystallized from 430 mL of water to yield 23.0 g of a light brown solid. Upon vacuum drying at 100° C., the solid melted and lost weight to 21.1 g (yield of 73 percent) which weight loss corresponds to one molar equivalent of water.

reactant | 2,2-bis(4-hydroxyphenyl)acetic acid | 0.125 mole, 30.50 g | OC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)O | C14H12O4
reactant | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
reactant | LiAlH4 | 0.5 mole, 18.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | HCl | Cl | ClH
solvent | methyl isobutyl ketone | 500 mL | C(C(C)C)C(=O)C | C6H12O
solvent | water | 100 mL | O | H2O
product | 2,2-bis(4-hydroxyphenyl)ethanol | 30.7 g | OC1=CC=C(C=C1)C(CO)C1=CC=C(C=C1)O | C14H14O3
